US07589234B2
The crude product CF3CF2CF2OCH2CF2COF was rectified under nitrogen at ordinary pressure using a 10-stage Oldershaw rectification column to give 2020 g of CF3CF2CF2OCH2CF2COF. Its boiling point was 78° C. A 30-g portion of the CF3CF2CF2OCH2CF2COF obtained was hydrolyzed by gradually pouring the same into 30 g of dilute sulfuric acid with stirring. The product was washed several times with dilute sulfuric acid and then distilled under reduced pressure to give 20.5 g of pure CF3CF2CF2OCH2CF2COOH. The thus-obtained CF3CF2CF2OCH2CF2COOH had a boiling point of 84° C. at a pressure of about 2.7×103 Pa. A 5.9-g portion of the CF3CF2CF2OCH2CF2COOH obtained was dissolved completely in 29.8 g of pure water. The pH of the solution was 1.28. The pH was adjusted to 7 by adding an aqueous solution of sodium hydroxide dropwise. The resulting aqueous solution contained 19.8% by mass of CF3CF2CF2OCH2CF2COONa. The aqueous solution was dried under vacuum at 80° C., and the melting point of the CF3CF2CF2OCH2CF2COONa obtained (solid salt) was measured by DSC and found to be 191.8° C. A 0.2% (by mass) aqueous solution of this CF3CF2CF2OCH2CF2COONa had a surface tension of 68.5 mN/m. The surface tension of a 2.0% (by mass) aqueous solution thereof was 48.0 mN/m.

reactant | CF3CF2CF2OCH2CF2COF | C(F)(F)(F)C(F)(F)C(F)(F)OCC(F)(F)C(=O)F | C6H2F10O2
reactant | sulfuric acid | 30 g | S(O)(O)(=O)=O | H2O4S
product | CF3CF2CF2OCH2CF2COOH | 20.5 g | C(F)(F)(F)C(F)(F)C(F)(F)OCC(F)(F)C(=O)O | C6H3F9O3
